US05376681
5-Amino-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran hydrochloride
4-Amino-2,3,5-trimethylphenol (2.0 g, 13.2 mmol) and 2-methyl-2-propenol (1.15 g, 15.8 g) were heated under reflux in dichloromethane (20 ml) together with sulfuric acid (2 ml) for 18 hours. The reaction mixture was washed with aqueous saturated sodium bicarbonate solution, dried and then concentrated. The residue was purified by silica gel column chromatography (isopropyl ether). The purified product was converted into its hydrochloride and it was crystallized from ethanol-isopropyl ether to obtain the desired compound (460 mg, yield: 14.4%), m.p. 248°-250° C.

reactant | 4-Amino-2,3,5-trimethylphenol | 13.2 mmol, 2.0 g | NC1=C(C(=C(C=C1C)O)C)C | C9H13NO
reactant | 2-methyl-2-propenol | 1.15 g | CC(CO)=C | C4H8O
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-Amino-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran hydrochloride | 460 mg, yield: 14.4% | Cl.NC=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | InChI=1S/C13H19NO.ClH/c1-7-8(2)12-10(9(3)11(7)14)6-13(4,5)15-12;/h6,14H2,1-5H3;1H
